US07608639B2
3-{4-[3-(2′-Methoxy-5-trifluoromethyl-biphenyl-2-yloxy)-phenoxy]-2-methyl-phenyl}-propionic acid
The title compound is prepared according to Example 89 by using 2-methoxyphenyl boronic acid and 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-phenoxy]-2-methyl-phenyl}-propionic acid methyl ester to afford about 102 mg (64%). 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calcd for C30H25O5F3 522, found 523 (M+1, 100%).

reactant | 2-methoxyphenyl boronic acid | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-phenoxy]-2-methyl-phenyl}-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)OC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)Br)C)=O | C24H20BrF3O4
product | 3-{4-[3-(2′-Methoxy-5-trifluoromethyl-biphenyl-2-yloxy)-phenoxy]-2-methyl-phenyl}-propionic acid | COC1=C(C=CC=C1)C1=C(C=CC(=C1)C(F)(F)F)OC=1C=C(OC2=CC(=C(C=C2)CCC(=O)O)C)C=CC1 | C30H25F3O5
